US04055595
Ethyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate (12.0 g.) is added, dropwise at 0° C. under nitrogen, to a stirred mixture of toluene (200 ml.) and sodium hydride (2.0 g. of a 60% dispersion in oil from which the oil has been washed with toluene). The mixture is stirred at ambient temperature for 1.5 hours, and phenyl-2-thienyliodonium trifluoroacetate (20.0 g.) is added. The mixture is heated under reflux with continued stirring for 1 hour, then cooled, and filtered. The filtrate is evaporated in vacuo, and the residual red oil (22.2 g.) is fractionally distilled at 24 mm. pressure to give ethyl 2-phenoxy-3,3,3-trifluoro-2-trifluoromethylpropionate, b.p. 103°-105° C. (9.4 g.).

reactant | Ethyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate | 12.0 g | OC(C(=O)OCC)(C(F)(F)F)C(F)(F)F | C6H6F6O3
reactant | sodium hydride | [H-].[Na+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-phenoxy-3,3,3-trifluoro-2-trifluoromethylpropionate | O(C1=CC=CC=C1)C(C(=O)OCC)(C(F)(F)F)C(F)(F)F | C12H10F6O3
